US04859684
(a-6) A mixture of 5.6 parts of (+)-4-[[2-(methylthio)-1H-imidazol-1-yl]-phenylmethyl]-1,2-benzendiamine, 2.8 parts of ethyl ethanimidate hydrochloride and 60 parts of methanol was stirred first overnight at room temperature and then for 2 hours at reflux temperature. After cooling, the reaction mixture was evaporated. The residue was treated with alkaline water and the product was extracted three times with dichloromethane. The combined extracts were dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of dichloromethane and methanol (96:4 by volume) as eluent. The pure fractions were collected and the eluent was evaporated, yielding 3.2 parts (79.3%) of (+)-2-methyl-5-[[2-(methylthio)-1H-imidazol-1-yl]phenylmethyl]-1H-benzimidazole as a residue (int. 144).

reactant | (+)-4-[[2-(methylthio)-1H-imidazol-1-yl]-phenylmethyl]-1,2-benzendiamine | CSC=1N(C=CN1)C(C=1C=C(C(=CC1)N)N)C1=CC=CC=C1 | C17H18N4S
reactant | ethyl ethanimidate hydrochloride | Cl.C(C)(OCC)=N
solvent | methanol | CO | CH4O
product | (+)-2-methyl-5-[[2-(methylthio)-1H-imidazol-1-yl]phenylmethyl]-1H-benzimidazole | 79.3% | CC1=NC2=C(N1)C=CC(=C2)C(C2=CC=CC=C2)N2C(=NC=C2)SC | C19H18N4S
